US04214004
A mixture of 1-(3-chlorophenyl)-3-methylcyclohexan-1-ol (25.0 g, 0.11 mole) and sulfur (7.1 g, 0.22 mole) was heated at 250° for 4.5 hours. The reaction mixture then stood at room temperature for approximately 60 hours, and then it was distilled under reduced pressure to give 19.5 grams of distillate; bp, 150°-165°/10 mm. The distillate was chromatographed on silica gel, elution with hexane. The eluent was evaporated under reduced pressure to give 3'-chloro-3-methyl[1,1'-biphenyl] (17.0 g) as an oil. The nmr and the ir spectra of the oil were consistent with the proposed structure.

reactant | 1-(3-chlorophenyl)-3-methylcyclohexan-1-ol | 0.11 mole, 25.0 g | ClC=1C=C(C=CC1)C1(CC(CCC1)C)O | C13H17ClO
reactant | sulfur | 0.22 mole, 7.1 g | [S] | S
product | 3'-chloro-3-methyl[1,1'-biphenyl] | 17.0 g | ClC=1C=C(C=CC1)C1=CC(=CC=C1)C | C13H11Cl
